US07105533B2
A solution of 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone (0.44 mmol) and 2-picoline (41 mg, 0.44 mmol) in acetone (2 mL) was heated to reflux for 3 h, diluted with CH2Cl2 (20 mL) and water (10 mL). The aqueous layer was separated and extracted with CH2Cl2 (2×10 mL), and the combined organic layers were dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:19 to 1:2) to afford 2-(3-methoxy-4-pyridin-2-ylphenyl)indolizine. 1H NMR (CDCl3, 300 MHz) δ 8.75 (m, 1H), 7.92 (m, 2H), 7.86 (d, 1H), 7.73 (dt, 1H), 7.65 (br s, 1H), 7.41 (dd, 1H), 7.38 (d, 1H), 7.30 (br s, 1H), 7.21 (m, 1H), 6.77 (s, 1H), 6.69 (dd, 1H), 6.49 (dt, 1H), 3.97 (s, 3H) ppm. 13C NMR (CDCl3, 75 MHz) δ 157.3, 156.0, 149.4, 137.3, 135.7, 133.7, 131.5, 129.1, 127.2, 125.1, 125.1, 121.6, 119.1, 119.1, 117.6, 110.8, 109.6, 109.2, 96.8, 55.7 ppm. MS (ESI) 301 (M)+.

reactant | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)ethanone | 0.44 mmol | BrCC(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC | C14H12BrNO2
reactant | 2-picoline | 0.44 mmol, 41 mg | N1=C(C=CC=C1)C | C6H7N
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)indolizine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1C=C2C=CC=CN2C1 | C20H16N2O
